US08604019B2
Step 1. Preparation of 1-(1-Oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)ethanone
To a cooled solution of 1-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)ethanone (70 g, 0.33 mol) in dichloromethane (700 mL) was added a solution of 3-chloroperoxybenzoic acid (67 g, 0.33 mol) in dichloromethane (800 mL) dropwise at 0° C. After the addition, the reaction was stirred at the same temperature for 15 minutes. The resulting reaction mixture was washed with a saturated aqueous solution of sodium carbonate (500 mL×2) and a saturated aqueous solution of sodium sulfite (500 mL×2). The combined aqueous layers were extracted with dichloromethane (200 mL×2), dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (eluting with 1-2% methanol in dichloromethane) to afford 57 g of the desired product (yield was 77%).

reactant | 1-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)ethanone | 0.33 mol, 70 g | S1CCN(CC2=C1C=CC=C2)C(C)=O | C11H13NOS
reactant | 3-chloroperoxybenzoic acid | 0.33 mol, 67 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 700 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 800 mL | ClCCl | CH2Cl2
product | 1-(1-Oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)ethanone | 57 g, yield was 77% | O=S1CCN(CC2=C1C=CC=C2)C(C)=O | C11H13NO2S
